US07696240B2
3-Aminomethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester; salt with hydrogen chloride was hydrolyzed as described in the general procedure B (Exp. 2.2) to give 3-aminomethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid hydro-chloride as an off-white solid. MS: 347.4 ([M−H]−).

reactant | 3-Aminomethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1CN)F)CC1=CC=CC2=CC=CC=C12 | C23H21FN2O2
reactant | hydrogen chloride | Cl | ClH
product | 3-aminomethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid hydro-chloride | Cl.NCC1=C(N(C2=CC=C(C=C12)F)CC1=CC=CC2=CC=CC=C12)C(=O)O | InChI=1S/C21H17FN2O2.ClH/c22-15-8-9-19-17(10-15)18(11-23)20(21(25)26)24(19)12-14-6-3-5-13-4-1-2-7-16(13)14;/h1-10H,11-12,23H2,(H,25,26);1H
